US07297795B2
A suspension of 2-cyano-N-(2,4-dichloro-5-methoxyphenyl)acetamide (3.2 g, 12.4 mmol) and [3-iodo-4-(2-methoxyethoxy)phenyl]amine (4.0 g, 13.7 mmol) in 350 mL of iso-propanol was heated to reflux and triethylorthoformate (5.6 mL, 33.7 mmol) was added dropwise. The reaction mixture was heated at reflux for 3 hours. Additional triethylorthoformate (2.0 mL, 12.0 mmol) was added dropwise and the reaction mixture was heated at reflux overnight. The mixture was allowed to cool to room temperature and the solid was collected by filtration, washed with iso-propanol, diethyl ether, and ethyl acetate and then dried in vacuo to give 5.5 g of 2-cyano-N-(2,4-dichloro-5-methoxyphenyl)-3-{[3-iodo-4-(2-methoxyethoxy)phenyl]amino}acrylamide as a yellow solid, mp 209-210° C.; MS (ES) 560.0, 562.1 (M−H)−

reactant | 2-cyano-N-(2,4-dichloro-5-methoxyphenyl)acetamide | 12.4 mmol, 3.2 g | C(#N)CC(=O)NC1=C(C=C(C(=C1)OC)Cl)Cl | C10H8Cl2N2O2
reactant | [3-iodo-4-(2-methoxyethoxy)phenyl]amine | 13.7 mmol, 4.0 g | IC=1C=C(C=CC1OCCOC)N | C9H12INO2
reactant | triethylorthoformate | 33.7 mmol, 5.6 mL | C(C)OC(OCC)OCC | C7H16O3
reactant | triethylorthoformate | 12.0 mmol, 2.0 mL | C(C)OC(OCC)OCC | C7H16O3
solvent | iso-propanol | 350 mL | C(C)(C)O | C3H8O
product | 2-cyano-N-(2,4-dichloro-5-methoxyphenyl)-3-{[3-iodo-4-(2-methoxyethoxy)phenyl]amino}acrylamide | 5.5 g | C(#N)C(C(=O)NC1=C(C=C(C(=C1)OC)Cl)Cl)=CNC1=CC(=C(C=C1)OCCOC)I | C20H18Cl2IN3O4
